US05489614
e) 1-(3,4-Dihydroxy-5-nitrophenyl)-2-methylene-1-propanone
A solution of 3',4'-dihydroxy-5'-nitro-2-bromoisobutyrophenone (2.6 g) and triethylamine (20 ml) in pyridine (20 ml) was heated for 3 hours at 100° C. Triethylamine and pyridine were evaporated in vacuo. Ether and 2N H2SO4 were added. The organic phase was separated and dried over Na2SO4. The ether solution was treated with charcoal for 2 hours, filtered and evaporated to dryness. The residue was crystallized from dichloromethane-petroleum ether (40°-60° C). Yield 0.48 g, mp 98°-102° C.

reactant | 3',4'-dihydroxy-5'-nitro-2-bromoisobutyrophenone | 2.6 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(C)(C)Br)=O | C10H10BrNO5
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3,4-Dihydroxy-5-nitrophenyl)-2-methylene-1-propanone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(C(C)=C)=O | C10H9NO5
